US04310100
As petroleum resins, known products are obtained by heat-polymerizing a petroleum type unsaturated hydrocarbon such as cyclopentadiene or a higher olefinic hydrocarbon having 5 to 11 carbon atoms in the presence of a catalyst. In the present invention, any of these known petroleum resins may be used for formation of the coating layer 3. As the coumarone-indene resin, there are known resins having a relatively low degree of polymerization, which are obtained by polymerizing a tar fraction composed mainly of coumarone and indene (ordinarlly boiling at 160° to 180° C.) in the presence of a catalyst or under application of heat. Any of these known resins can be used in the present invention. As the terpene resin, there can be used synthetic and natural polymers of terpene type hydrocarbons, particularly resins obtained by polymerizing a terpene oil or nopinene fraction in the presence of a catalyst. As the rosin, there can be used so-called raw rosins such as gum rosin and wood rosin, rosin esters obtained by esterifying abietic acid in the rosin, such as rosin glycerin ester (ester gum), diethylene glycol diabietate, diethylene glycol 2-hydroxyabietate, rosin monoethylene glycol ester and rosin pentaerythritol ester. These rosins may be modified with known thermosetting resins or the like.

reactant | coumarone indene | O1C=CC2=CC=CC=C12.C1C=CC2=CC=CC=C12
reactant | coumarone | O1C=CC2=CC=CC=C12 | C8H6O
reactant | indene | C1C=CC2=CC=CC=C12 | C9H8
product | nopinene | CC1(C2CCC(=C)C1C2)C | C10H16
